US07307076B2
a) 8-benzyloxy-5-(2-chloro-acetyl)-1H-quinolin-2-one
25.2 g (86 mmol) 5-acetyl-8-benzyloxy-1H-quinolin-2-one (European Journal of Medicianl Chemistry 1984, 19(4), 341) and 50 g (142 mmol) benzyltrimethylammonium dichloriodate in 500 mL dichloroethane and 300 mL methanol are stirred overnight at reflux temperature. The reaction mixture is evaporated down and the residue is stirred overnight in THF and 1 N hydrochloric acid. After the THF has been distilled off the precipitated solid is suction filtered, washed with diethyl ether and dried.

reactant | 5-acetyl-8-benzyloxy-1H-quinolin-2-one | 86 mmol, 25.2 g | C(C)(=O)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C18H15NO3
reactant | benzyltrimethylammonium dichloriodate | 142 mmol, 50 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloroethane | 500 mL | ClC(C)Cl | C2H4Cl2
solvent | methanol | 300 mL | CO | CH4O
product | 8-benzyloxy-5-(2-chloro-acetyl)-1H-quinolin-2-one | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CCl)=O | C18H14ClNO3
